US06258812B1
Preparation of 82D=3-(3-chloroanilino)-4.5-dimethyl-6-(pyridin-4-yl)methylpyridazine (Rx=meta-chloro):
The compound is prepared starting from 0.070 g 3-chloro-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine and 0.153 g meta-chloroaniline in the manner described in Example 82A. After heating for 20 h to 1 30° C., siginificant quantities of 3-chloro-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine are still present (TLC). For this reason, a further 0.153 g meta-chloroaniline is added and heated for another 24 h to 1 30° C. Processing is in the manner described for Example 82A. Title compound is obtained after FC in CH2Cl2/methanol 19/1: m.p. 164-167°. 1H-NMR (250 MHz, CDCl3): δ=8.45 (s, wide, 2H); 7.70 (t, 1H); 7.45 (dd, 1H); 7.25-7.10 (m, 3H)); 7.00 (dd, 1H); 6.20 (s, wide, 1H); 4.25 (s, 2H); 2.15 (s, 3H); 2.10 (s, 3H). ES-MS 325, 327 (M+H for 35Cl and 37Cl).

reactant | 3-chloro-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine | 0.070 g | ClC=1N=NC(=C(C1C)C)CC1=CC=NC=C1 | C12H12ClN3
reactant | meta-chloroaniline | 0.153 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | meta-chloroaniline | 0.153 g | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | CH2Cl2 methanol | C(Cl)Cl.CO
product | 3-(3-chloroanilino)-4.5-dimethyl-6-(pyridin-4-yl)methylpyridazine | ClC=1C=C(NC=2N=NC(=C(C2C)C)CC2=CC=NC=C2)C=CC1 | C18H17ClN4
